US09216980B2
Preparation of 1-(4-Bromo-2-ethoxybenzyl)-piperidine
Sodium hydride (306 mg, 60%, 7.6 mmol) was added in portions to a solution of 1-(4-bromo-2-fluorobenzyl)-piperidine (520 mg, 1.9 mmol) and ethyl urethane (0.91 mL, 7.6 mmol) in dioxane (10 mL) under an atmosphere of nitrogen. The reaction mixture was then sonicated for 30 minutes until gas evolution ceased then heated at 140° C. overnight in a sealed tube. The reaction mixture was diluted with water and extracted with DCM (3×30 mL). The combined organic layer was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to afford a colourless oil that was then purified by flash chromatography (silica, 12 g column, ISCO, 0-10% methanol in DCM) to afford the title compound as a white solid (416 mg, 74%). 1H NMR (CDCl3, 400 MHz): 7.23 (d, J=8.1 Hz, 1H), 7.03 (dd, J=8.1, 1.9 Hz, 1H), 6.95 (d, J=1.9 Hz, 1H), 3.99 (q, J=7.0 Hz, 2H), 3.47 (s, 2H), 2.46-2.35 (m, 4H), 1.61-1.53 (m, 4H), 1.45-1.36 (m, 5H).

reactant | Sodium hydride | 7.6 mmol, 306 mg | [H-].[Na+]
reactant | 1-(4-bromo-2-fluorobenzyl)-piperidine | 1.9 mmol, 520 mg | BrC1=CC(=C(CN2CCCCC2)C=C1)F | C12H15BrFN
reactant | ethyl urethane | 7.6 mmol, 0.91 mL | C(C)NC(=O)OCC | C5H11NO2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 1-(4-Bromo-2-ethoxybenzyl)-piperidine | 416 mg, 74% | BrC1=CC(=C(CN2CCCCC2)C=C1)OCC | C14H20BrNO
